US04105681
20 g of 9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid are dissolved in 200 ml of tetrahydrofuran. After the addition of 5.5 ml of phosphorus trichloride, the solution is stirred for 2 hours at room temperature, cooled to 0° C and treated firstly with 50 ml of pyridine and then dropwise at 0°-5° C with 50 ml of propargyl alcohol. The mixture is stirred for 2 hours at room temperature and then diluted with water. The organic phase is washed successively with water, dilute hydrochloric acid and a 2% aqueous sodium bicarbonate solution, dried over sodium sulphate and evaporated. There is obtained 9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid propargyl ester which melts at 94°-95° C after absorption on aluminium oxide using benzene as the eluent.

reactant | 9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid | 20 g | COC1=C(C(=C(C(=C1)C)C=CC(=CC=CC(=CC(=O)O)C)C)C)C | C21H26O3
reactant | phosphorus trichloride | 5.5 ml | P(Cl)(Cl)Cl | Cl3P
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | propargyl alcohol | 50 ml | C(C#C)O | C3H4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid propargyl ester | C(C#C)OC(C=C(C=CC=C(C=CC1=C(C(=C(C=C1C)OC)C)C)C)C)=O | C24H28O3
